US04803211
A drop of piperidine was added to a mixture of 13.4 g of p-tolualdehyde, 5 g of malonic acid and 50 ml of pyridine. The mixture was heated to reflux until evolution of carbon dioxide was discontinued. The reaction mixture was concentrated under reduced pressure and, 200 ml of water and 12 g of hydrogen sodium carbonate were added thereto. The mixture was washed with ethyl acetate and made acidic with conc. hydrochloric acid. The precipitated crystals were taken out by filtration, thoroughly washed with water and dried to give 6.6 g of p-formylcinnamic acid.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | p-tolualdehyde | 13.4 g | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | malonic acid | 5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | carbon dioxide | C(=O)=O | CO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | p-formylcinnamic acid | 6.6 g | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
